US03988373
A solution of [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethylamine (5.0 g) and 1-propylbromide (6.0 g) in absolute methanol (10 cc) was refluxed for 3 hours, and the solvent of the reaction mixture was distilled off under reduced pressure. To the residue were added benzene and ether, and precipitated crystals were gathered by filtration to give colorless crystals (0.8 g) of [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethylpropylammonium bromide.

reactant | [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethylamine | 5.0 g | CC(\C=C\C1C(=CCCC1(C)C)C)N(C)C | C15H27N
reactant | 1-propylbromide | 6.0 g | C(CC)Br | C3H7Br
reactant | methanol | 10 cc | CO | CH4O
product | [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethylpropylammonium bromide | 0.8 g | [Br-].CC(\C=C\C1C(=CCCC1(C)C)C)[N+](CCC)(C)C | InChI=1S/C18H34N.BrH/c1-8-14-19(6,7)16(3)11-12-17-15(2)10-9-13-18(17,4)5;/h10-12,16-17H,8-9,13-14H2,1-7H3;1H/q+1;/p-1/b12-11+;
